### PR TITLE
PLT-473 TPLC with Open builtins

### PR DESCRIPTION
**Pull request by mjaskelioff**
This PR implements open builtins for TPLC.

* A new kind `#` is introduced. This required many changes across all the formalisation, and in the way Agda code interfaces with Haskell code.
* `list` and `pair` are just type constants with higher-order kinds.
* Builtin signatures are redesigned to distinguish between variables polymorphic over all types (that is, variables of kind `*`) and variables polymorphic over builtin-types (i.e. of kind `#`)
* *All* current builtins are implemented.
* Several postulated lemmas were proved (parts of their proofs were needed somewhere else anyway).

### CODE REVIEW

File: plutus-metatheory/src/Algorithmic/CEK.lagda.md [hunk 1]
```diff
@@ -72,43 +68,47 @@ data Value : (A : ∅ ⊢Nf⋆ *) → Set where
...
+    → {A : ∅ ⊢Nf⋆ K}
     → (q : C ≡ B [ A ]Nf)
     → {σC : SigTy (bubble pt) pa C}
-    → (σq : σC ≡ convSigTy (sym q) (σB [ A ]SigTy))
     → BApp b C σC
+
+infixl 4 _$_
+infixl 4 _$$_
+pattern Λ̂ A = _$$_ base {A = A} refl 
+pattern _●_ bapp B = _$$_ bapp {A = B} refl
```
Comment (mjaskelioff) [inline plutus-metatheory/src/Algorithmic/CEK.lagda.md:111]: I redefined the syntax so that the BUILTIN function definition looks a bit less ugly (I had to modify the definition anyway, since I needed to eliminate the term constructors which were not need anyway).

File: plutus-metatheory/src/Algorithmic.lagda [hunk 2]
```diff
@@ -89,13 +95,79 @@ data _∋_ : (Γ : Ctx Φ) → Φ ⊢Nf⋆ * → Set where
...
+ty≅sty₁ (ne (^ list · x))        = cong ne (cong (^ list ·_) (ty≅sty₁ x)) 
+ty≅sty₁ (ne (^ (atomic x)))      = refl
+
+ty≅sty₂ : ∀ (A : 0 ⊢♯) →  A ≡ ty2sty (sty2ty A)
+ty≅sty₂ (atomic x) = refl
+ty≅sty₂ (list A) = cong list (ty≅sty₂ A)
+ty≅sty₂ (pair A B) = cong₂ pair (ty≅sty₂ A) (ty≅sty₂ B)
+\end{code}
+
+The semantics of types is given by the following interpretation function
```
Comment (jmchapman) [inline plutus-metatheory/src/Algorithmic.lagda:146]: 'semantics of types' of kind # I guess

File: plutus-metatheory/src/Algorithmic/CEK.lagda.md [hunk 3]
```diff
@@ -353,16 +355,16 @@ step (s ; ρ ▻ Λ L) = s ◅ V-Λ L ρ
 step (s ; ρ ▻ (L ·⋆ A / refl)) = (s , -·⋆ A) ; ρ ▻ L
 step (s ; ρ ▻ wrap A B L) = (s , wrap-) ; ρ ▻ L
 step (s ; ρ ▻ unwrap L refl) = (s , unwrap-) ; ρ ▻ L
-step (s ; ρ ▻ con c) = s ◅ V-con c
+step (s ; ρ ▻ con c refl) = s ◅ V-con c
```
Comment (jmchapman) [inline plutus-metatheory/src/Algorithmic/CEK.lagda.md:358]: could you use a pattern synonym here?

File: plutus-metatheory/src/Algorithmic/CK.lagda.md [hunk 4]
```diff
@@ -70,33 +71,33 @@ discharge : ∀{A : ∅ ⊢Nf⋆ *}{t : ∅ ⊢ A} → Value t → ∅ ⊢ A
...
-step ((s , (V-ƛ t ·-)) ◅ V)       = s ▻ (t [ discharge V ])
-step ((s , (-·⋆ A)) ◅ V-Λ t)      = s ▻ (t [ A ]⋆)
-step ((s , wrap-) ◅ V)            = s ◅ (V-wrap V)
-step ((s , unwrap-) ◅ V-wrap V)   = s ▻ deval V
-step (s ▻ (builtin b / refl))     = s ◅ ival b
-step ((s , (V-I⇒ b {am = 0} bt ·-)) ◅ vu) = s ▻ BUILTIN' b (app bt vu)
+step (s ▻ ƛ L)                                = s ◅ V-ƛ L
+step (s ▻ (L · M))                            = (s , -· M) ▻ L
+step (s ▻ Λ L)                                = s ◅ V-Λ L
+step (s ▻ (L ·⋆ A / refl))                    = (s , -·⋆ A) ▻ L
```
Comment (jmchapman) [inline plutus-metatheory/src/Algorithmic/CK.lagda.md:77]: pattern synonym?

File: plutus-metatheory/src/Algorithmic/CK.lagda.md [hunk 5]
```diff
@@ -70,33 +71,33 @@ discharge : ∀{A : ∅ ⊢Nf⋆ *}{t : ∅ ⊢ A} → Value t → ∅ ⊢ A
...
+step (s ▻ wrap A B L)                         = (s , wrap-) ▻ L
+step (s ▻ unwrap L refl)                      = (s , unwrap-) ▻ L
```
Comment (jmchapman) [inline plutus-metatheory/src/Algorithmic/CK.lagda.md:79]: pattern synonym?

File: plutus-metatheory/src/Algorithmic/CK.lagda.md [hunk 6]
```diff
@@ -70,33 +71,33 @@ discharge : ∀{A : ∅ ⊢Nf⋆ *}{t : ∅ ⊢ A} → Value t → ∅ ⊢ A
...
+step (s ▻ con cn refl)                        = s ◅ V-con cn
+step (s ▻ error A)                            = ◆ A
+step (ε ◅ V)                                  = □ V
+step ((s , (-· M)) ◅ V)                       = ((s , V ·-) ▻ M)
+step ((s , (V-ƛ t ·-)) ◅ V)                   = s ▻ (t [ discharge V ])
+step ((s , (-·⋆ A)) ◅ V-Λ t)                  = s ▻ (t [ A ]⋆)
+step ((s , wrap-) ◅ V)                        = s ◅ (V-wrap V)
+step ((s , unwrap-) ◅ V-wrap V)               = s ▻ deval V
+step (s ▻ (builtin b / refl))                 = s ◅ ival b
```
Comment (jmchapman) [inline plutus-metatheory/src/Algorithmic/CK.lagda.md:88]: pattern synonym?

File: plutus-metatheory/src/Algorithmic/Completeness.lagda [hunk 7]
```diff
@@ -112,9 +107,83 @@ lemσ σ C _ refl q = trans
...
+                  (cong Π (trans (sig2type⇒-lem {zero} {suc n} {Norm.mkTy r} {Syn.mkTy r} (head ∷ tail) (mkTy-lem r)) 
+                                 (sym (reifyCR (idext exte-lem (Syn.sig2type⇒ tail (Syn.mkTy head ⇒ Syn.mkTy r)))))
+                   )) 
+sig2type-lem (sig (suc n) n♯ (head ∷ tail) r) = sig2typeΠ-lem {t = Π (Syn.sig2type⇒ tail (Syn.mkTy head ⇒ Syn.mkTy r))}
+                  {Π (Norm.sig2type⇒ tail (Norm.mkTy head ⇒ Norm.mkTy r))}
+                  (cong Π (trans (sig2type⇒-lem {suc n} {n♯} {Norm.mkTy r} {Syn.mkTy r} (head ∷ tail) (mkTy-lem r)) 
+                                 (sym (reifyCR (idext exte-lem (Syn.sig2type⇒ tail (Syn.mkTy head ⇒ Syn.mkTy r)))))
+                   )) 
+
+btype-lem : ∀ {Φ} b → Norm.btype {Φ} b ≡ nf (Syn.btype b)
```
Comment (jmchapman) [inline plutus-metatheory/src/Algorithmic/Completeness.lagda:172]: postulate-- :)

File: plutus-metatheory/src/Algorithmic.lagda (hunk 2 above)
Comment (mjaskelioff) [reply plutus-metatheory/src/Algorithmic.lagda:146]: Right

File: plutus-metatheory/src/Raw.hs [hunk 8]
```diff
@@ -63,34 +66,41 @@ unIndex (Index n) = toInteger n
...
 convT :: Type NamedTyDeBruijn DefaultUni a -> RType
 convT (TyVar _ (NamedTyDeBruijn x)) = RTyVar (unIndex (ndbnIndex x))
 convT (TyFun _ _A _B)               = RTyFun (convT _A) (convT _B)
-convT (TyForall _ _ _K _A)          = RTyPi (() <$ _K) (convT _A)
-convT (TyLam _ _ _K _A)             = RTyLambda (() <$ _K) (convT _A)
+convT (TyForall _ _ _K _A)          = RTyPi (convK _K) (convT _A)
+convT (TyLam _ _ _K _A)             = RTyLambda (convK _K) (convT _A)
 convT (TyApp _ _A _B)               = RTyApp (convT _A) (convT _B)
-convT (TyBuiltin _ b)               = RTyCon (convTyCon b)
+convT (TyBuiltin _ b)               = convTyCon b
```
Comment (effectfully) [inline plutus-metatheory/src/Raw.hs:79]: This may fail, given `error "unsupported builtin type application"` below. You should handle the `DefaultUniApply` case (by elaborating it to `RTyApp`) and only call `convTyCon` if `b` is not a type application.

File: plutus-metatheory/src/Scoped.lagda [hunk 9]
```diff
@@ -32,17 +32,13 @@ open import RawU using (TyTag;TmCon;tmCon;tagCon2TmCon;tmCon2TagCon)
...
+data ScopedTy (n : ℕ) : Set where
   `    : Fin n → ScopedTy n
   _⇒_  : ScopedTy n → ScopedTy n → ScopedTy n
   Π    : Kind → ScopedTy (suc n) → ScopedTy n
   ƛ    : Kind → ScopedTy (suc n) → ScopedTy n
   _·_  : ScopedTy n → ScopedTy n → ScopedTy n
-  con  : S.TyCon n → ScopedTy n
+  con  : ∀{K} → TyCon K → ScopedTy n
   μ    : ScopedTy n → ScopedTy n → ScopedTy n
   missing : ScopedTy n -- for when things compute to error
```
Comment (effectfully) [inline plutus-metatheory/src/Scoped.lagda:43]: Would be great to have an explanation why we need that `missing` thing.

File: plutus-metatheory/src/Utils.lagda [hunk 10]
```diff
@@ -202,14 +202,20 @@ a kind called `#` which is used for sized integers and bytestrings.
...
+-- {-# FOREIGN GHC import PlutusCore                       #-}
+-- {-# FOREIGN GHC {-# LANGUAGE GADTs, PatternSynonyms #-} #-}
+
+-- {-# FOREIGN GHC type KIND = Kind ()                     #-}
+
+-- {-# FOREIGN GHC pattern Star    = Type ()               #-}
+
+-- {- TODO: Map Sharp to the correct kind once it is added to the Haskell implementation -}
+-- {-# FOREIGN GHC pattern Sharp   = Type ()               #-}
+-- {-# FOREIGN GHC pattern Arrow k j = KindArrow () k j    #-}
```
Comment (effectfully) [inline plutus-metatheory/src/Utils.lagda:217]: Just to be clear, we are not even sure that adding `#` to the implementation is going to happen. Nobody is working on that and from what I know nobody plans to in any foreseeable future. There's plenty of things our users care about and having the builtin kind just isn't one of them.

**Review by effectfully — APPROVED** [review]
Looks great to me. I didn't review the proofs.

File: plutus-metatheory/src/Algorithmic/CEK.lagda.md (hunk 3 above)
Comment (mjaskelioff) [reply plutus-metatheory/src/Algorithmic/CEK.lagda.md:358]: I could. The synonym cannot be named `con` (could be named something like `const`) even if we rename the real `con` constructor to `con_/_` because it clashes with the `con` constructor for types.

File: plutus-metatheory/src/Algorithmic.lagda [hunk 11]
```diff
@@ -89,13 +95,79 @@ data _∋_ : (Γ : Ctx Φ) → Φ ⊢Nf⋆ * → Set where
...
           
-Let `x`, `y` range over variables.
+## Semantic of constant terms
+
+We define a predicate ♯Kinded for kinds that ultimately end in ♯.
+
+\begin{code}
+data ♯Kinded : Kind → Set where
+   ♯ : ♯Kinded ♯
+   K♯ : ∀{K J} → ♯Kinded J → ♯Kinded (K ⇒ J)
```
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Algorithmic.lagda:105]: Yes, in principle. You wouldn't be able to construct one, though, given the current builtin type constants.

File: plutus-metatheory/src/Algorithmic/CK.lagda.md (hunk 4 above)
Comment (mjaskelioff) [reply plutus-metatheory/src/Algorithmic/CK.lagda.md:77]: I'm not convinced we should make every constructor with a `refl` a pattern synonym. Unlike constructors, pattern synonyms have poor overloading of names, so they are best used local to a module. We reuse a lot of syntax, and if we took the route of doing a pattern synonym to avoid every `refl`, we would need unique global names for every pattern synonym. This means introducing a lot of new names just for the sake of avoiding the ocasional `refl`.

File: plutus-metatheory/src/Algorithmic/CEK.lagda.md [hunk 12]
```diff
@@ -72,43 +68,47 @@ data Value : (A : ∅ ⊢Nf⋆ *) → Set where
    → Value (nf (embNf A · ƛ (μ (embNf (weakenNf A)) (` Z)) · embNf B))
    → Value (μ A B)
 
-  V-con : {tcn : TyCon _}
-    → (cn : TermCon {∅} (con tcn))
-    → Value (con tcn)
+  V-con : ∀{A : ∅ ⊢Nf⋆ ♯}
+    → ⟦ A ⟧ 
+    → Value (con A)
```
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Algorithmic/CEK.lagda.md:73]: Why is that? The `TermCon` that we would have here would we a dependent pair of a type and its meaning, so it would be equivalent but with one more level of indirection.

File: plutus-metatheory/src/Builtin.lagda.md [hunk 13]
```diff
@@ -135,38 +138,46 @@ private module SugaredSignature where
...
+    -- names for type variables of kind ⋆
+    A :  ∀{n⋆ n♯} → suc n⋆ / n♯ ⊢⋆
+    A = ` Z
+
+    B :  ∀{n⋆ n♯} → suc (suc n⋆) / n♯ ⊢⋆
+    B = ` (S Z)
+
+    -- names for type variables of kind ♯
+    a : ∀{n♯} → suc n♯ ⊢♯
     a = ` Z
```
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Builtin.lagda.md:171]: Do you think it's worth it adding one here? In any case we can discuss it on Slack. It would be a separate ticket anyway.

File: plutus-metatheory/src/Builtin/Constant/AtomicType.lagda.md [hunk 14]
```diff
@@ -37,3 +44,18 @@ data AtomicTyCon : Set where
...
 unquoteDef decAtomicTyCon = defDec (quote AtomicTyCon) decAtomicTyCon
 ```
+
+## Meaning of Atomic Constants
+
+```
+⟦_⟧at : AtomicTyCon → Set
+⟦ aInteger ⟧at = ℤ
+⟦ aBytestring ⟧at = ByteString
+⟦ aString ⟧at = String
```
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Builtin/Constant/AtomicType.lagda.md:54]: I'm not sure it would change anything. Is there any difference aside from performance? The strings get converted to Text to use Haskell functions such as pretty-printing.

File: plutus-metatheory/src/Algorithmic/CEK.lagda.md (hunk 12 above)
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-metatheory/src/Algorithmic/CEK.lagda.md:73]: > The `TermCon` that we would have here would we a dependent pair of a type and its meaning

I want the implementation to have a `TermCon` that isn't just (morally) a dependent pair, but instead is a bunch of constructors with type tags in their names rather than in a separate field. That is faster than storing tags separately and isn't much more boilerplate (we'd still have to keep type tags around for fast unlifting of lists and pairs).

File: plutus-metatheory/src/Check.lagda.md [hunk 15]
```diff
@@ -85,220 +81,303 @@ data TypeError : Set where
...
+len⋆ ∅        = 0
+len⋆ (Φ ,⋆ K) = suc (len⋆ Φ)
+
+inferTyVar : ∀ Φ (i : Fin (len⋆ Φ)) → Σ Kind (Φ ∋⋆_)
+inferTyVar (Φ ,⋆ K) zero    = K ,, Z
+inferTyVar (Φ ,⋆ K) (suc i) = let J ,, α = inferTyVar Φ i in  J ,, S α
+
+⊎bind : {A B C : Set} → A ⊎ C → (A → B ⊎ C) → B ⊎ C
+⊎bind (inj₁ a) f = f a
+⊎bind (inj₂ c) f = inj₂ c
```
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Check.lagda.md:99]: I just left it the way it was before (the old lines 70-72).

File: plutus-metatheory/src/Builtin/Constant/AtomicType.lagda.md (hunk 14 above)
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-metatheory/src/Builtin/Constant/AtomicType.lagda.md:54]: > Is there any difference aside from performance? 

Accuracy? It's already confusing on the implementation side that `String` maps to `Text` and here we add a bunch more confusion on top.

It doesn't really matter, I'm just nitpicking.

File: plutus-metatheory/src/Check.lagda.md [hunk 16]
```diff
@@ -3,10 +3,17 @@ layout: page
 ---
 ## Type checker
 
+This module implements typechecking and inference for Scoped terms.
+
+Scoped terms `ScopedTm` have scoped types `ScopedTy` which don't have kinds, so
+kinds need to be inferred. Since we have two base kinds (`*` and `♯`) and the 
+latter embeds into the former, there is some subtleties discussed below.
```
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-metatheory/src/Check.lagda.md:10]: Right, silly me, we don't have the builtin kind in the syntax. Thanks!

File: plutus-metatheory/src/Scoped.lagda (hunk 9 above)
Comment (mjaskelioff) [reply plutus-metatheory/src/Scoped.lagda:43]: I don't think it is needed anymore. I'll try and remove it.

File: plutus-metatheory/src/Utils.lagda (hunk 10 above)
Comment (mjaskelioff) [reply plutus-metatheory/src/Utils.lagda:217]: I understand. I can probably remove this comment since we now have code for mapping between Haskell and Agda kinds (`convK` and `unconvK`)

File: plutus-metatheory/src/Check.lagda.md [hunk 17]
```diff
@@ -85,220 +81,303 @@ data TypeError : Set where
...
+isPat ((♯ ⇒ K₁) ,, A) = inj₁ (notPat * λ _ ())
+isPat (((K ⇒ K₂) ⇒ *) ,, A) = inj₁ (notPat * λ _ ())
+isPat (((K ⇒ K₂) ⇒ ♯) ,, A) = inj₁ (notPat * λ _ ())
+isPat (((K ⇒ *) ⇒ (K₁ ⇒ *)) ,, A) = do
+      refl ← withE (kindMismatch _ _) (dec2Either (decKind K K₁))
+      return (K ,, A) 
+isPat (((K ⇒ *) ⇒ (K₁ ⇒ ♯)) ,, A) = inj₁ (notPat * λ _ ())
+isPat (((K ⇒ *) ⇒ (K₁ ⇒ (K₃ ⇒ K₄))) ,, A) = inj₁ (notPat * λ _ ())
+isPat (((K ⇒ ♯) ⇒ (K₁ ⇒ K₃)) ,, A) = inj₁ (notPat * λ _ ())
+isPat (((K ⇒ (K₂ ⇒ K₄)) ⇒ (K₁ ⇒ K₃)) ,, A) = inj₁ (notPat * λ _ ())
```
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Check.lagda.md:134]: As you mention below, the type errors are wrong. They are all different.

File: plutus-metatheory/src/Builtin/Constant/AtomicType.lagda.md (hunk 14 above)
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Builtin/Constant/AtomicType.lagda.md:54]: I'll make a ticket to fix this in the future.

[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Builtin/Constant/AtomicType.lagda.md:54]: Done. PLT-6378.

File: plutus-metatheory/src/Check.lagda.md [hunk 18]
```diff
@@ -85,220 +81,303 @@ data TypeError : Set where
...
+  2.    con (ne (^ (atomic aInteger)))
+
+Whenever we have a constant of kind `♯` we embed it into `*` using `con`.
+This means that a composition of, for instance a list (kind `♯ ⇒ ♯`) applied 
+to a constant (which will be of kind `*`) doesn't match exactly. So we relax 
+this condition  when checking kinds and allow
+  1. Checking a `*`-kinded type against `♯`, whenever the type is of the form `con A` : 
+       we "downgrade" the type to A of kind `♯`. 
+  2. Checking a `♯`-kinded type against `*`: 
+       we "upgrade" the type to `*` using `con`.
```
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Check.lagda.md:190]: One problem is that a standalone `con (atomic aInteger)` should be inferred as a kind star * (i.e. 
`con (ne (^ (atomic aInteger)))`. I guess one could try to rewrite the inferKind function as a two-step process, but I'm not sure it would work in general. I'll try.

File: plutus-metatheory/src/Algorithmic/CEK.lagda.md (hunk 12 above)
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Algorithmic/CEK.lagda.md:73]: OK. But you are talking about the untyped case. For the typed case, this version is potentially more efficient, because you only can get something of the correct type, so you wouldn't need to check for tags. Anyway, efficiency is not currently an issue for the formalisation, as long as its performance is not unreasonable and can be used for testing.

File: plutus-metatheory/src/Raw.hs (hunk 8 above)
Comment (mjaskelioff) [reply plutus-metatheory/src/Raw.hs:79]: Aren't the good cases covered by lines 95-98?
```
convTyCon (SomeTypeIn (DefaultUniList a))             =
    RTyApp (RTyCon RTyConList) (convTyCon (SomeTypeIn a))
convTyCon (SomeTypeIn (DefaultUniPair a b))           =
    RTyApp (RTyApp (RTyCon RTyConPair) (convTyCon (SomeTypeIn a))) (convTyCon (SomeTypeIn b))
```

File: plutus-metatheory/src/Algorithmic/CEK.lagda.md (hunk 12 above)
[the remark this answers is not in the document]
Comment (effectfully) [reply plutus-metatheory/src/Algorithmic/CEK.lagda.md:73]: > Anyway, efficiency is not currently an issue for the formalisation

Sure, I'm just letting you know what is planned for the implementation, you don't need to follow that in the formalization, but I thought you might want to know.

File: plutus-metatheory/src/Raw.hs (hunk 8 above)
Comment (effectfully) [reply plutus-metatheory/src/Raw.hs:79]: :woman_facepalming: I have no idea how I missed that, sorry!

Anyways, those lines aren't quite correct. One can have a partially applied `DefaultUniProtoPair` for example and then neither of these cases would catch it. Just elaborate any `DefaultUniApply` to `RTyApp` and handle `DefaultUniProtoList` and `DefaultUniProtoPair` to handle all possible cases and you'll be able to avoid throwing that `error` there too.

Also I'd define `convTyCon` over `DefaultUni (Esc a)` rather than `SomeTypeIn DefaultUni`, so that you don't need to match on `SomeTypeIn` repeatedly.

File: plutus-metatheory/src/Check.lagda.md (hunk 15 above)
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Check.lagda.md:99]: As it happens it's not used at all. I'm going to erase the definition.

File: plutus-metatheory/src/Raw.hs (hunk 8 above)
Comment (mjaskelioff) [reply plutus-metatheory/src/Raw.hs:79]: Thank you Roman.

> Also I'd define convTyCon over DefaultUni (Esc a) rather than SomeTypeIn DefaultUni, so that you don't need to match on SomeTypeIn repeatedly.

You mean define `convTyCon :: DefaultUni (Esc a) -> RType`?
Wouldn't this open the existential prematurely andfail to typecheck?

Comment (mjaskelioff) [reply plutus-metatheory/src/Raw.hs:79]: I mean fail to typecheck when calling it
```
convT (TyBuiltin _ (SomeTypeIn b))  = convTyCon b
```

File: plutus-metatheory/src/Check.lagda.md (hunk 18 above)
[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Check.lagda.md:190]: Ok. Now I did implemented upgrading "as needed" and I remembered why we need to prematurely upgrade. You have functions like `isPat` that checks a type has kind `(K ⇒ *) ⇒ (K ⇒ *)` and returns a type `Φ ⊢Nf⋆ (K ⇒ *) ⇒ (K ⇒ *)`.  
If we have a kind, say `(K ⇒ ♯) ⇒ (K ⇒ ♯)` then we have the requirement to upgrade `♯`, but we can't get inside the type to insert the appropriate `con`s. (Well, we probably can make a function to do that, but that is even messier than the solution above.)

[the remark this answers is not in the document]
Comment (mjaskelioff) [reply plutus-metatheory/src/Check.lagda.md:190]: I'll add an example for this case.

File: plutus-metatheory/src/Utils.lagda (hunk 10 above)
Comment (mjaskelioff) [reply plutus-metatheory/src/Utils.lagda]: Comment Removed
